US07795267B2
1,1-Dimethylethyl tetrahydro-3-oxo-1-phenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate
Bis(1,1-dimethylethyl)2-benzoyl-1,4-piperazinedicarboxylate (0.10 g, 0.26 mmol) was dissolved in methanol (2 mL), sodium borohydride (19 mg, 0.51 mmol) was added thereto, and the mixture was stirred at room temperature for 2 hours. To the reaction solution was added ethyl acetate, and the resulting mixture was washed with a 0.5 M aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in N,N-dimethylformamide (3 mL), 60% sodium hydride (12 mg, 0.30 mmol) was added thereto, and the mixture was stirred at room temperature for 1 hour. The resulting mixture was extracted with ethyl acetate, washed with a 0.5 M aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=9:1 to 1:1) to obtain the title compound (47 mg, yield 57%) as a diastereomer mixture. Diastereomer ratio (α:β=1:5).

reactant | Bis(1,1-dimethylethyl)2-benzoyl-1,4-piperazinedicarboxylate | 0.26 mmol, 0.10 g | CC(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(C1=CC=CC=C1)=O | C21H30N2O5
reactant | sodium borohydride | 0.51 mmol, 19 mg | [BH4-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydride | 0.30 mmol, 12 mg | [H-].[Na+]
reactant | methanol | 2 mL | CO | CH4O
product | 1,1-Dimethylethyl tetrahydro-3-oxo-1-phenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate | 47 mg, yield 57% | O=C1OC(C2N1CCN(C2)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C17H22N2O4
